US08067441B2
Second Step: Preparation of 5-Fluoro-[2,2′]bipyridinyl-6-carbaldehyde oxime
5-Fluoro-[2,2′]bipyridinyl-6-carbaldehyde (0.36 mmol, 73 mg), hydroxylamine hydrochloride (1.8 mmol, 125 mg), pyridine (1.6 mmol, 0.12 mL) and EtOH were heated at reflux during 2 h. The solvent was evaporated under vacuum, and H2O was added. The filtration of the white precipitate obtained provided the final product without needing any purification (Florence Mongin; Francois Trecourt; Bruno Gervais; Oliver Mongin; Guy Quequiner, J. Org. Chem., 2002, 67, 3272-3276). Yield: 47 mg (60%), white solid. 1H-NMR (DMSO): 12.0 (N—OH); 8.76 (d, 1H, J=4.4 Hz); 8.46 (dd, 1H, J1=8.5 Hz, J1=3.4 Hz); 8.40 (d, 1H, J=7.9 Hz); 8.34 (s, 1H); 8.01 (m, 2H); 7.54 (m, 1H)

reactant | 5-Fluoro-[2,2′]bipyridinyl-6-carbaldehyde | 0.36 mmol, 73 mg | FC=1C=CC(=NC1C=O)C1=NC=CC=C1 | C11H7FN2O
reactant | hydroxylamine hydrochloride | 1.8 mmol, 125 mg | Cl.NO
reactant | pyridine | 1.6 mmol, 0.12 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOH | CCO | C2H6O
product | 5-Fluoro-[2,2′]bipyridinyl-6-carbaldehyde oxime | FC=1C=CC(=NC1C=NO)C1=NC=CC=C1 | C11H8FN3O
